US06617339B1
3-(4-(4-(2-Hydroxyethyl)aminoiminopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (125 mg, 0.33 mmol) was dissolved in MeOH (5 ml) and dichloromethane (5 ml), 2-hydroxyethylhydrazine (29 mg, 0.37 mmol) added, and the mixture stirred at ambient temperature under nitrogen for 18 hours. The mixture was evaporated, and the residue purified by chromatography on a 5 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 1.5% MeOH in dichloromethane. Relevant fractions were combined to give the desired product (98 mg). MS (ESP): 434 (MH+) for C20H24FN5O5.

reactant | 3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 0.33 mmol, 125 mg | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C18H18FN3O5
reactant | 2-hydroxyethylhydrazine | 0.37 mmol, 29 mg | OCCNN | C2H8N2O
solvent | MeOH | 5 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(4-(4-(2-Hydroxyethyl)aminoiminopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 98 mg | OCCNN=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C20H24FN5O5
